US08349829B2
10.i. 7-methoxy-1H-[1,8]naphthyridin-2-one
To a solution of 7-chloro-1H-[1,8]naphthyridin-2-one (prepared as described in J. Org. Chem. (1990), 55, 4744; 5.36 g, 29.68 mmol) in MeOH (98 mL) was added sodium methoxide (25 wt % in MeOH, 161 mL). The resulting solution was stirred at reflux for 15 h. The solvent was removed in vacuo. Water (100 mL) and EA (80 mL) were added. The phases were separated and the aq layer was extracted with EA (8×80 mL). The combined org. layers were washed with brine (50 mL), dried over MgSO4, filtered and evaporated under reduced pressure. The title compound was obtained as a beige solid (5.22 g, 100% yield).

reactant | 7-chloro-1H-[1,8]naphthyridin-2-one | 29.68 mmol, 5.36 g | ClC1=CC=C2C=CC(NC2=N1)=O | C8H5ClN2O
reactant | sodium methoxide | 161 mL | C[O-].[Na+]
solvent | MeOH | 98 mL | CO | CH4O
product | 7-methoxy-1H-[1,8]naphthyridin-2-one | COC1=CC=C2C=CC(NC2=N1)=O | C9H8N2O2
